US07371490B2
In the third exemplary process, phthalic anhydride or phthalonitrile and ammonia are primarily reacted to produce an intermediate product such as 1,3-diimino isoindoline, then the intermediate product is reacted with a metal halide in the presence of solvent having a high boiling point.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | phthalonitrile | C(C=1C(C#N)=CC=CC1)#N | C8H4N2
reactant | ammonia | N | H3N
product | 1,3-diimino isoindoline | N=C1NC(C2=CC=CC=C12)=N | C8H7N3
